US07902400B2
At room temperature, 99 mg of trimethylsilyl cyanide was added dropwise to a mixture of 12 ml of tetrahydrofuran and 291 mg of 7-[3,5-difluoro-4-(2-propynyloxy)benzoyl]-7-azabicyclo[4.1.0]heptane and, further, tetrabutylammonium fluoride (0.05 ml of 1M tetrahydrofuran solution) was added. The resulting mixture was heated with stirring at 40° C. for 8 hours. The reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.24 g of N-(2-cyanocyclohexyl)-3,5-difluoro-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 80 of the present invention) represented by the formula:

reactant | trimethylsilyl cyanide | 99 mg | C[Si](C)(C)C#N | C4H9NSi
reactant | 7-[3,5-difluoro-4-(2-propynyloxy)benzoyl]-7-azabicyclo[4.1.0]heptane | 291 mg | FC=1C=C(C(=O)N2C3CCCCC23)C=C(C1OCC#C)F | C16H15F2NO2
reactant | tetrabutylammonium fluoride | 1M, 0.05 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | N-(2-cyanocyclohexyl)-3,5-difluoro-4-(2-propynyloxy)benzamide | 0.24 g | C(#N)C1C(CCCC1)NC(C1=CC(=C(C(=C1)F)OCC#C)F)=O | C17H16F2N2O2
